US07875645B2
e) 2-(2-Chloro-6-ethyl-benzyl)-1H-imidazole
This compound was prepared using methodology described in J. Chem. Soc., Perkin Trans. 1, 2002, 1061-1066. To a stirred solution of 2.10 g (8.87 mmol) rac-(2-chloro-6-ethyl-phenyl)-(1H-imidazol-2-yl)-methanol in 10 ml 1,2-dichloroethane in a pressure tube were added dropwise 14.1 ml (88.7 mmol) triethylsilane and 8.04 ml (106 mmol) trifluoroacetic acid. The tube was sealed and the reaction mixture was stirred at 100° C. for 16 hours, before being cooled to room temperature and diluted with dichloromethane. The mixture was washed sequentially with 2 N aqueous sodium hydroxide solution and water and then the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, ethyl acetate/heptane gradient) followed by trituration in ether to afford 0.66 g (34%) of the title compound as a white crystalline solid. MS (ISP): 223.1 ([M+H]+), 221.2 ([M+H]+).

reactant | rac-(2-chloro-6-ethyl-phenyl)-(1H-imidazol-2-yl)-methanol | 8.87 mmol, 2.10 g | ClC1=C(C(=CC=C1)CC)C(O)C=1NC=CN1 | C12H13ClN2O
reactant | triethylsilane | 88.7 mmol, 14.1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 106 mmol, 8.04 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-Chloro-6-ethyl-benzyl)-1H-imidazole | 0.66 g, 34% | ClC1=C(CC=2NC=CN2)C(=CC=C1)CC | C12H13ClN2
